US04661596
N-[7-(2-quinolinylmethoxy)-2-naphthalenyl]ethane sulfonamide
A solution of 5.00 g 7-(2-quinolinylmethoxy)-2-naphthalenamine (17 mmol), prepared according to the procedure of Example 7, 1.7 g triethylamine (17 mmol) and 2.18 g ethanesulfonyl chloride (17 mmol) in 50 mL tetrahydrofuran is refluxed overnight. The solvent is removed and the residue is partitioned between methylene chloride and saturated sodium bicarbonate. After drying over potassium carbonate, the organic layer is freed of solvent to afford 5.00 g of a brown gum. Chromatography on alumina and elution with 9:1 methylene chloride/ethyl acetate affords 1.4 g of a white solid which is recrystallized from ethyl acetate. Rechromatography on HPLC and final recrystallization from ethyl acetate affords 0.6 g (9%) of white crystals, m.p. 166°-167.5° C.

reactant | 7-(2-quinolinylmethoxy)-2-naphthalenamine | 17 mmol, 5.00 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C2C=CC(=CC2=C1)N | C20H16N2O
reactant | triethylamine | 17 mmol, 1.7 g | C(C)N(CC)CC | C6H15N
reactant | ethanesulfonyl chloride | 17 mmol, 2.18 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-[7-(2-quinolinylmethoxy)-2-naphthalenyl]ethane sulfonamide | 5.00 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C2C=CC(=CC2=C1)NS(=O)(=O)CC | C22H20N2O3S
